US07273882B2
Preparation G. 3-Bromo-5-chlorobenzylamine
Step G4. A mixture of 2-(3-Bromo-5-chlorobenzyl)isoindoline-1,3-dione (5.1 g, 14.6 mmol) and hydrazine monohydrate (0.8 g, 16 mmol) in ethanol (150 mL) was refluxed for 4 hours. Upon cooling to room temperature, a white solid precipitated. The solid was filtered and washed with ethanol, then dried in vacuum. 1H NMR (DMSO-d6) showed that the white solid is a mixture of 3-bromo-5-chlorobenzylamine and 2,3-dihydrophthalazine-1,4-dione. This material was used in subsequent steps without further purification.

reactant | 2-(3-Bromo-5-chlorobenzyl)isoindoline-1,3-dione | 14.6 mmol, 5.1 g | BrC=1C=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C(C1)Cl | C15H9BrClNO2
reactant | hydrazine monohydrate | 16 mmol, 0.8 g | O.NN
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 3-Bromo-5-chlorobenzylamine | BrC=1C=C(CN)C=C(C1)Cl | C7H7BrClN
